US04338333
1-(4-Benzyloxyphenyl) propan-2-one ethylene ketal
A solution of 1-(4-benzyloxyphenyl) propan-2-one (5 g), ethylene glycol (1.4 g) and a trace amount of 4-toluenesulphonic acid, in benzene (100 ml) was heated under reflux with azetropic removal of water for 2 hours. The solvent was evaporated, the residue dissolved in ethyl acetate, washed with 1.2 N sodium bicarbonate solution, dried (MgSO4) and evaporated to give a light brown oil which crystallised on standing (6.1 g) m.p. 58°-62°.

reactant | 1-(4-benzyloxyphenyl) propan-2-one | 5 g | C(C1=CC=CC=C1)OC1=CC=C(C=C1)CC(C)=O | C16H16O2
reactant | ethylene glycol | 1.4 g | C(CO)O | C2H6O2
reactant | 4-toluenesulphonic acid | C1(=CC=C(C=C1)S(=O)(=O)O)C | C7H8O3S
reactant | water | O | H2O
solvent | benzene | 100 ml | C1=CC=CC=C1 | C6H6
product | 1-(4-Benzyloxyphenyl) propan-2-one ethylene ketal | C1COC(CC2=CC=C(C=C2)OCC2=CC=CC=C2)(C)O1 | C18H20O3
